### PR TITLE
feat: grind annotations for Sum

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `grind` annotations for `Sum`.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2b39b453e75e7745a48c1fa8071d1874d2f5d2f5 --onto 3b2990b3816b7e7ec289ad498496a61d18bd85f4`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-18 01:51:26)

File: src/Init/Data/Sum/Lemmas.lean [hunk 1]
```diff
@@ -71,16 +71,20 @@ theorem eq_right_getRight_of_isRight : ∀ {x : α ⊕ β} (h : x.isRight), x =
...
+@[simp] theorem bnot_isLeft (x : α ⊕ β) : (!x.isLeft) = x.isRight := by cases x <;> rfl
 
 @[simp] theorem isLeft_eq_false {x : α ⊕ β} : x.isLeft = false ↔ x.isRight := by cases x <;> simp
 
+grind_pattern isLeft_eq_false => x.isLeft
+
 theorem not_isLeft {x : α ⊕ β} : ¬x.isLeft ↔ x.isRight := by simp
 
-@[simp] theorem bnot_isRight (x : α ⊕ β) : !x.isRight = x.isLeft := by cases x <;> rfl
+@[simp, grind =] theorem bnot_isRight (x : α ⊕ β) : (!x.isRight) = x.isLeft := by cases x <;> rfl
```
Comment (eric-wieser) [inline src/Init/Data/Sum/Lemmas.lean:82]: Discussed at [#lean4 > Sum.bnot_isLeft and Sum.bnot_isRight @ 💬](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Sum.2Ebnot_isLeft.20and.20Sum.2Ebnot_isRight/near/525937693)
